US08076345B2
A) 6-Benzyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
Two 20 mL microwave vials were each charged with a half portion of 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (5.62 g, 21.6 mmol), (6-(trifluoromethyl)pyridin-3-yl)methanamine (5.0 g, 28 mmol), N,N-diisopropylethylamine (7.6 mL, 44 mmol) and acetonitrile (10 mL), and the mixture was subjected to a microwave irradiation at 200° C. for 3.5 h. LC-MS analysis showed the reaction was complete for both samples. The samples were combined, and partitioned between CH2Cl2 (150 mL) and 0.5M NaH2PO4 (pH 4; 120 mL). The organic layer was extracted with 2M HCl (60 mL, 30 mL). The combined acid extracts were basified with 50% KOH (25 mL), extracted with CH2Cl2 (2×100 mL), dried (Na2SO4), filtered and concentrated to yield a light brown oil, which was absorbed on silica (40 g) and purified by column (120 g silica gel, 0-7.5% MeOH/CH2Cl2) to afford a light yellow foam (7.42 g, 86%).

reactant | 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 21.6 mmol, 5.62 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
reactant | (6-(trifluoromethyl)pyridin-3-yl)methanamine | 28 mmol, 5.0 g | FC(C1=CC=C(C=N1)CN)(F)F | C7H7F3N2
reactant | N,N-diisopropylethylamine | 44 mmol, 7.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-Benzyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 7.42 g, 86% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C21H20F3N5
